US05686445
N-[4-[(5,6-Dihydro-7H-pyrimido[5,4-d][1]benzazepin-7-yl)carbonyl]phenyl]-2-chlorobenzamide
As described for Example 1, 5 mmol of 4-[(2-chlorobenzoyl)amino]benzoyl chloride is reacted with 5 mmol of 5,6-dihydro-7H-pyrimido[5,4-d][1]benzazepine in pyridine to give the product as a solid.

reactant | 4-[(2-chlorobenzoyl)amino]benzoyl chloride | 5 mmol | ClC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C14H9Cl2NO2
reactant | 5,6-dihydro-7H-pyrimido[5,4-d][1]benzazepine | 5 mmol | N1=CN=CC=2CCNC3=C(C21)C=CC=C3 | C12H11N3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[4-[(5,6-Dihydro-7H-pyrimido[5,4-d][1]benzazepin-7-yl)carbonyl]phenyl]-2-chlorobenzamide | N1=CN=CC=2CCN(C3=C(C21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O | C26H19ClN4O2
